US08895670B2
About 6.02 g of ethyl glycinate hydrochloride, 14.39 g of triethylamine, and 10 ml of toluene were mixed in a round-bottom reaction flask cooled with an ice bath. To this mixture was added, in a dropwise fashion, a solution of 21.1 g of trimethylsilyl trifluoromethanesulfonate in 50 ml of toluene. The resulting mixture was stirred at room temperature for 19 hours to give a biphasic mixture. The top layer was transferred to another flask, and the bottom layer was extracted with 40 ml of toluene. The combined toluene solution was evaporated under vacuum. The residue was extracted with 100 ml of hexane, and the hexane layer was evaporated under vacuum, yielding ethyl [bis(trimethylsilyl)amino]acetate, also known as ethyl N,N-bis(trimethylsilyl)glycinate (BTMSEG), as a colorless liquid (9.23 g, 87% yield). The 1H NMR data (C6D6, 25° C., referenced to tetramethylsilane) of the product are listed as follows: δ 3.89 (quartet, 2 H, OCH2 protons), 3.51 (singlet, 2 H, NCH2 protons), 0.90 (triplet, 3 H, CH3 protons), 0.14 (singlet, 18H, Si—CH3 protons). From the 1H NMR data, the structure of the product was determined to be as follows:

reactant | ethyl glycinate hydrochloride | 6.02 g | Cl.NCC(=O)OCC
reactant | triethylamine | 14.39 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl trifluoromethanesulfonate | 21.1 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl [bis(trimethylsilyl)amino]acetate | C[Si](C)(C)N([Si](C)(C)C)CC(=O)OCC | C10H25NO2Si2
